US07947727B2
Intermediate 2: 1,1,1-Trifluoro-3-[(phenylmethyl)oxy]-2-{[(phenylmethyl)oxy]methyl}-2-propanol
Tetrabutylammonium fluoride trihydrate (TBAF 3H2O) (2.9 g, 0.5 equivalent) was dissolved in THF (5 ml). This was added cautiously to a stirred and cooled (+15° C.) solution of 1,3-dibenzyloxy-2-propanone in toluene (24.65 g, equivalent to 5 g of the ketone) and (trifluoromethyl)trimethylsilane (7.5 ml). There was an exotherm and a lot of gas evolution on addition of the first 1 ml of TBAF solution. The temperature rose from 18 to 40° C. The TBAF addition was carried out over 3 minutes and then the mixture was stirred at 15-30° C. for a further 2 minutes and then cooled to +10° C. while carrying out an HPLC analysis. The reaction mixture was sequentially washed with 1M aqueous hydrochloric acid (50 ml), 1% aqueous sodium chloride solution (2×25 ml) and a mixture of 1% sodium chloride (25 ml) and saturated sodium bicarbonate (5 ml) solution. The separated organic extract was concentrated in vacuo to give 6.41 g of the desired product as dark brown oil in 101.8% yield. The NMR spectrum showed the presence of residual toluene (8.8%) and starting material (ca 3%).

reactant | Tetrabutylammonium fluoride trihydrate | 2.9 g, 0.5 equivalent | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1,3-dibenzyloxy-2-propanone | C(C1=CC=CC=C1)OCC(COCC1=CC=CC=C1)=O | C17H18O3
reactant | (trifluoromethyl)trimethylsilane | 7.5 ml | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | TBAF | 1 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,1,1-Trifluoro-3-[(phenylmethyl)oxy]-2-{[(phenylmethyl)oxy]methyl}-2-propanol | 6.41 g, 101.8% yield | FC(C(COCC1=CC=CC=C1)(O)COCC1=CC=CC=C1)(F)F | C18H19F3O3
